US04923857
A solution of (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-(3-triphenylphosphoranylidene-2-oxopropyl)-2-oxoazetidine (572 mg) and (2S)-1-allyloxycarbonyl-2-formylpyrrolidine (201.5 mg) in toluene (5 ml) was heated to reflex for three hours. Evaporation of the solvent gave a residue, which was taken up into ethyl acetate. The resultant precipitate was filtered off and washed with ethyl acetate. The filtrate and the washings were combined and evaporated in vacuo. The residue was chromatographed on silica gel (50 ml) eluting with a mixture of n-hexane and ethyl acetate (2:1-1:1-1:3 V/V) to give (3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (297.7 mg).

reactant | (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-(3-triphenylphosphoranylidene-2-oxopropyl)-2-oxoazetidine | 572 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C32H40NO3PSi
reactant | (2S)-1-allyloxycarbonyl-2-formylpyrrolidine | 201.5 mg | C(C=C)OC(=O)N1[C@@H](CCC1)C=O | C9H13NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-2-oxo-3-butenyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 297.7 mg | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C/C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C23H38N2O5Si
